US20010056179A1
A solution of 4-(4-hydroxyphenyl)cyclohexanone (5.0 g, 26.3 mmol) in acetone (100 mL) was treated with K2CO3 (14.5 g, 105 mmol, 4 equiv) and iodoethane (10.5 mL, 20.5 g, 131 mmol, 5 equiv.). The reaction was heated at 6520 C. overnight. After the solvent was removed, the residue was treated with H2O and extracted with EtOAc. The organic extracts were combined and washed with brine, dried over Na2SO4 and concentrated in vacuum to give the spectroscopically pure 4-(4-ethoxyphenyl)cyclohexanone (5.74 g, 100%). 1H NMR (CDCl3) 7.15 (dt, 2H), 6.86 (dt, 2H), 4.02 (q, 2H), 2.99 (tt, 1H), 2.46-2.54 (m, 4H), 2.16-2.24 (m, 2H), 1.83-2.00 (m, 2H) and 1.41 (t, 3H); MS (electrospray) m/e, 219 (M+1)+, Calcd for C14H18O2, 218.

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 26.3 mmol, 5.0 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | K2CO3 | 105 mmol, 14.5 g, 4 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 131 mmol, 10.5 mL, 20.5 g, 5 equiv. | ICC | C2H5I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-(4-ethoxyphenyl)cyclohexanone | 5.74 g, 100% | C(C)OC1=CC=C(C=C1)C1CCC(CC1)=O | C14H18O2
